US06307052B1
Synthesis of (S)-4-[4-[(4-chlorophenyl)(2-pyridyl)methoxy]piperidino]butanoic acid
In 760 ml of ethanol was dissolved 126.0 g (0.302 mol) of ethyl (S)-4-[4-[(4-chlorophenyl)(2-pyridyl)methoxy ]-piperidino]butanoate obtained according to Reference example 3(1), and then 120.8 ml of a 5N aqueous sodium hydroxide solution was added to the mixture and the mixture was allowed to stand at room temperature overnight. After confirming disappearance of the starting materials, the mixture was neutralized by adding 121.1 ml of a 5N hydrochloric acid. After the precipitated crystals were removed by filtration, the reaction mixture was concentrated under reduced pressure. To the residue was added 600 ml of methyl acetate, and the solution was again concentrated under reduced pressure. The residue was dissolved in 600 ml of dichloromethane and dried over anhydrous magnesium sulfate sufficiently. Insolubles were removed by filtration, the filtrate was concentrated to afford the desired compound as an orange syrupy product (125.3 g). When the syrupy product was further dried under reduced pressure, it became a foamy product (120.2 g).

reactant | ethyl (S)-4-[4-[(4-chlorophenyl)(2-pyridyl)methoxy ]-piperidino]butanoate | 0.302 mol, 126.0 g | ClC1=CC=C(C=C1)[C@H](OC1CCN(CC1)CCCC(=O)OCC)C1=NC=CC=C1 | C23H29ClN2O3
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ethanol | 760 ml | C(C)O | C2H6O
product | (S)-4-[4-[(4-chlorophenyl)(2-pyridyl)methoxy]piperidino]butanoic acid | ClC1=CC=C(C=C1)[C@H](OC1CCN(CC1)CCCC(=O)O)C1=NC=CC=C1 | C21H25ClN2O3
